US03989694
1-Benzyl-4-(2-carboxyethyl)-5-hydroxy-1,2,3-triazole (5.0 g., 0.02 mol.) is suspended in 300 ml. of ethanol. Anhydrous hydrogen chloride gas is bubbled into the suspension for 30 minutes and the mixture is then heated on a steam bath for 20 minutes. The solution is cooled and evaporated to dryness to give a residue which is dissolved in 300 ml. of ethyl acetate. The ethyl acetate solution is washed with water, dried (MgSO4) and evaporated to dryness. Trituration with hexane containing a little acetone gives 1-benzyl-4-(2-carbethoxyethyl)-5-hydroxy-1,2,3-triazole.

reactant | 1-Benzyl-4-(2-carboxyethyl)-5-hydroxy-1,2,3-triazole | 0.02 mol, 5.0 g | C(C1=CC=CC=C1)N1N=NC(=C1O)CCC(=O)O | C12H13N3O3
reactant | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-4-(2-carbethoxyethyl)-5-hydroxy-1,2,3-triazole | C(C1=CC=CC=C1)N1N=NC(=C1O)CCC(=O)OCC | C14H17N3O3
